US07214673B2
(S)-2-Butyl-10-(3-phenethyl-piperazin-1-yl)-4H-3-thia-1,4,9-triaza-benzo[f]azulene
Add methyl trifluoromethanesulfonate (0.850 mL, 7.51 mmol) to a 0° C. solution of 2-Butyl-4,9-dihydro-3-thia-1,4,9-triaza-benzo[f]azulene-10-thione (1.45 g, 5.01 mmol) in anhydrous dichloromethane. Rinse solids into reaction with dichloromethane and stir allowing reaction to slowly reach ambient temperature. After an overnight period, concentrate under reduced pressure to afford crude methylated intermediate. Take 1.06 g of this intermediates (2.0 mmol), and combine the intermediate and 2-(S)-Phenethyl-piperazine (0.38 g, 2.0 mmol), with anhydrous pyridine, heat to 100° C. and stir. After an overnight period, cool to ambient temperature and concentrate under reduced pressure to an oil (2.16 g), followed by two chromatographic purifications, eluting with a gradient of a 8% solution of 2M ammonia in methanol, in dichloromethane (0–100% in dichloromethane), gives the title compound (0.078 g). Mass spectrum (APCI+, m/e): 446 (M+1); 1H NMR (300 MHz, DMSO-d6), δ (ppm): 7.79 (s, 1H), 7.31–7.10 (m, 5H), 6.90–6.74 (m, 3H), 6.71–6.64 (m, 1H), 4.14–3.92 (br. m, 1H), 3.44–3.22 (m, 1H), 2.93–2.52 (m, 10H), 1.65–1.49 (m, 4H), 1.36–1.20 (m, 2H, J=7.1 Hz), 0.82 (t, 3H, J=7.1 Hz).

reactant | methyl trifluoromethanesulfonate | 7.51 mmol, 0.850 mL | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | 2-Butyl-4,9-dihydro-3-thia-1,4,9-triaza-benzo[f]azulene-10-thione | 5.01 mmol, 1.45 g | C(CCC)C1=NC=2C(NC3=C(NC2S1)C=CC=C3)=S | C14H15N3S2
reactant | 2-(S)-Phenethyl-piperazine | 2.0 mmol, 0.38 g | C(CC1=CC=CC=C1)[C@@H]1NCCNC1 | C12H18N2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-2-Butyl-10-(3-phenethyl-piperazin-1-yl)-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 0.078 g | C(CCC)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCC3=CC=CC=C3 | C26H31N5S
